data/pmechdb/original/mc_train_fold0/raw/train.txt
CC1C(C(OC2C1OC(OC2)C3=CC=C(C=C3)OC)O[P:10](OC)(OC)(OC)[Br:11])C.C1=CC=[NH+]C=C1.[Br-]>>CC1C(C(OC2C1OC(OC2)C3=CC=C(C=C3)OC)O[P+:10](OC)(OC)OC)C.[Br-:11].C1=CC=[NH+]C=C1.[Br-] 10,11=11
CC[NH2:10].C[CH2:20][Br:21]>>CC[NH2+:10][CH2:20]C.[Br-:21] 10=20;20,21=21
CCOC(=O)C=CC1=C(C(=CC=C1)F)[CH:20]([OH:10])[OH+:21]CCCO.CC(=O)[O-].O>>C(CO)C[OH:21].CCOC(=O)C=CC1=C(C(=CC=C1)F)[CH:20]=[OH+:10].CC(=O)[O-].O 10=20;20,21=21
CCC(=O)O[C:11]1=[CH:10]C=CC=C1.[N+:20](=O)=[O:21]>>CCC(=O)O[C+:11]1C=CC=C[CH:10]1[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
[H:10][AlH3-:11].C1COC(O1)C[CH:20]=[O:21]>>[H:10][CH:20](CC1OCCO1)[O-:21].[AlH3:11] 10,11=10,20;20,21=21
[Li:11][CH3:10].CC(C)CCCC(C)C1CCC2C1(CCC3C2CCC4=C[C:20](=[O:21])CCC34C)C>>[Li+:11].CC(C)CCCC(C)C1CCC2C1(CCC3C2CCC4=C[C:20](CCC34C)([CH3:10])[O-:21])C 10,11=10,20;20,21=21
C[C+:20]=O.[CH:11]1=[CH:10]C2=CC=C(C=C2C=C1)[N+](=O)[O-]>>C[C:20](=O)[CH:10]1[CH+:11]C=CC2=CC(=CC=C12)[N+](=O)[O-] 10,11=10,20
[Li-:10](O)[O+:11]=C(C)C1=CC=CC=C1.CNOC>>[Li:10]O.CC(=[O:11])C1=CC=CC=C1.CNOC 10,11=11
[H:20][OH:21].CCC=CC(C(=O)OC)[N:10]=[C:11]([O-:12])OCC1=CC=CC=C1.[Mg+]Br>>[H:20][N:10](C(C=CCC)C(=O)OC)[C:11](=[O:12])OCC1=CC=CC=C1.[OH-:21].[Mg+]Br 10,11=10,20;20,21=21;12=11
CC[NH+:21](CC)[C:20](C=C)(O)[OH:10]>>CC[NH:21]CC.C=C[C:20](=[OH+:10])O 10=20;20,21=21
CC(C)(C)[Si:20](C)(C)C1(SCCCS1)CC(COCC2=CC=CC=C2)[O-:10].[Li+].CC(C)C>>CC(C)(C)[Si-:20]1(C2(CC([O:10]1)COCC3=CC=CC=C3)SCCCS2)(C)C.[Li+].CC(C)C 10=20,
C[C:11]1=[CH:10]C2=C([NH:12]1)C=CC(=C2)OC.[CH2:20]=[N+:21]1CCCCC1.CC(=O)[O-]>>C[C:11]1=[NH+:12]C2=C([CH:10]1[CH2:20][N:21]3CCCCC3)C=C(C=C2)OC.CC(=O)[O-] 10,11=10,20;20,21=21;12=11
CCO[C:20](=[O:21])C(C)C.CCO[C:11](=[C:10](C)C)[O-:12]>>CCO[C:11](=[O:12])[C:10](C)(C)[C:20](C(C)C)([O-:21])OCC 10,11=10,20;20,21=21;12=11
C(C=CCO[AlH3-])[O-:10].[AlH3:20]>>C(C=CCO[AlH3-])[O:10][AlH3-:20] 10=20,
C[CH:20]=[Br+:21].[Br-:10]>>C[CH:20]([Br:10])[Br:21] 10=20;20,21=21
[H:20][OH2+:21].CC1=CCC(N1C2=CC(=CC=C2)S(=O)(=O)N)(C3=C(C=CC(=C3)Cl)OCC4=CC=CC=C4)[OH:10].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH+:10]C1(CC=C(N1C2=CC(=CC=C2)S(=O)(=O)N)C)C3=C(C=CC(=C3)Cl)OCC4=CC=CC=C4.[OH2:21].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CC[OH:10].C[Si:20](C)(C)Cl>>CC[OH+:10][Si-:20](C)(C)(C)Cl 10=20,
CCC(C)(C)[O-:10].[AlH3:20]>>CCC(C)(C)[O:10][AlH3-:20] 10=20,
[H:20][C:21]1(C=CC=C[C+:22]1CBr)C(C)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(C)[C:21]1=[C:22](C=CC=C1)CBr 10=20;20,21=21,22
C[C+:20](C)CCOC[C:10]#[C:11]C[Si](C)(C)C>>C[C:20]1(CCOC[C:10]1=[C+:11]C[Si](C)(C)C)C 10,11=10,20
[H:20][CH2:21][S+](C)OCC.C[N-:10]C>>[H:20][N:10](C)C.CCO[S+](C)[CH2-:21] 10=20;20,21=21
CC=C[CH2+:20].[OH2:10]>>CC=C[CH2:20][OH2+:10] 10=20,
[H:20][OH2+:21].B(CCCC)(CCCC)[O:10]C(CCC1=CC=CC=C1)CC(=O)CC(C(C)C)OCC2=CC=C(C=C2)OC>>[H:20][O+:10](B(CCCC)CCCC)C(CCC1=CC=CC=C1)CC(=O)CC(C(C)C)OCC2=CC=C(C=C2)OC.[OH2:21] 10=20;20,21=21
CC(=O)O[I+:20]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.CC(C)(C)OC(=O)C1C(OC2(O1)CCCC2)(C(C(C(C=CC3=CC=CC=C3)O[Si](C)(C)C(C)(C)C)OCC4=CC=CC=C4)[OH:10])C(=O)OC(C)(C)C.CC(=O)[O-].C1=CC=NC=C1>>CC(=O)O[I:20]1(C2=C(C=CC=C2)C(=O)O1)([OH+:10]C(C(C(C=CC3=CC=CC=C3)O[Si](C)(C)C(C)(C)C)OCC4=CC=CC=C4)C5(C(OC6(O5)CCCC6)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)OC(=O)C.CC(=O)[O-].C1=CC=NC=C1 10=20,
[CH2:20]=[NH2+:21].[F-:10]>>[CH2:20]([NH2:21])[F:10] 10=20;20,21=21
[H:20][O+:21]=C(C)N(CC)CC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCN(CC)C(=[O:21])C 10=20;20,21=21
[H:20][O:21]C(=O)C.CC[O-:10].CCCC[N+](CCCC)(CCCC)CCCC>>[H:20][O:10]CC.CC(=O)[O-:21].CCCC[N+](CCCC)(CCCC)CCCC 10=20;20,21=21
CCO[C:20](C1CCCCC1=O)([O-:10])[O:21]CC>>CC[O-:21].CCO[C:20](=[O:10])C1CCCCC1=O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1=CC=[C:10](C(=C1)N)[Mg:11]Br>>[H:20][C:10]1=CC=CC=C1N.OS(=O)(=O)[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
C1CO[C:20](=[OH+:21])O1.[OH2:10]>>C1CO[C:20](O1)([OH2+:10])[OH:21] 10=20;20,21=21
[H:20][O:21]CC.CCCCC(CSC1=CC=CC=C1)[O-:10].[Na+]>>[H:20][O:10]C(CCCC)CSC1=CC=CC=C1.CC[O-:21].[Na+] 10=20;20,21=21
C1=CC(=CC=C1[CH2:20][Cl:21])C#N.C(CO)[NH2:10]>>C1=CC(=CC=C1[CH2:20][NH2+:10]CCO)C#N.[Cl-:21] 10=20;20,21=21
C[C:20]([OH:21])([O-:10])OC>>C[C:20](=[O:10])OC.[OH-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC[C:11](=[CH:10]C)C>>[H:20][CH:10](C)[C+:11](C)CC.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
C[CH:20](C)[Br:21].C[C:10](=[C:11](C)[O-:12])C>>C[CH:20](C)[C:10](C)(C)[C:11](=[O:12])C.[Br-:21] 10,11=10,20;20,21=21;12=11
CCCC(=[O:10])CCC.[Na+:20].[BH4-]>>CCCC(=[O+:10][Na:20])CCC.[BH4-] 10=20,
C[C:20](CC(=O)N(C)C)([O-:10])[Cl:21]>>C[C:20](=[O:10])CC(=O)N(C)C.[Cl-:21] 10=20;20,21=21
[H:20][OH2+:21].C1=CC=C(C=C1)C[N:10]=C(C2=C(C=CC=C2)C(=O)O)O>>[H:20][N+:10](=C(C1=C(C=CC=C1)C(=O)O)O)CC2=CC=CC=C2.[OH2:21] 10=20;20,21=21
CC[O+:11](C)[K:10]>>CC[O:11]C.[K+:10] 10,11=11
C[OH+:21][CH2:20][NH:10]CCC1=CC=CC=C1.CO.O.[Cl-]>>C[OH:21].[CH2:20]=[NH+:10]CCC1=CC=CC=C1.CO.O.[Cl-] 10=20;20,21=21
CC(C)O[C:20](=[O:21])C1=CC=CC=C1.[OH-:10]>>CC(C)O[C:20](C1=CC=CC=C1)([OH:10])[O-:21] 10=20;20,21=21
